US08685969B2
5. N-(3-(2-Amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-fluorophenyl)-4-(dimethylamino)benzamide
A mixture of 4-(dimethylamino)-N-(2-fluoro-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenyl)benzamide (0.388 g, 0.730 mmol) and Raney Ni (a small amount) in MeOH (35 mL) was treated with hydrogen at 55 psi a Parr shaker apparatus for 3 hr. The catalyst was removed by suction filtration. The filtrate was concentrated under vacuum, diluted with CH2Cl2 (100 mL), washed with brine (25 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (0.321 g, 0.599 mmol, 82% yield) as an off-white solid.

reactant | 4-(dimethylamino)-N-(2-fluoro-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenyl)benzamide | 0.730 mmol, 0.388 g | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)C(C[N+](=O)[O-])C2=CNC3=CC(=CC=C23)N2CCOCC2)F)C=C1)C | C29H30FN5O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 35 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | N-(3-(2-Amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-fluorophenyl)-4-(dimethylamino)benzamide | 0.599 mmol, 0.321 g, 82% yield | NCC(C1=CNC2=CC(=CC=C12)N1CCOCC1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)N(C)C)=O)F | C29H32FN5O2
